US07482341B2
Step B]: 6-(3,3,3-Trifluoro-propoxymethyl)-pyridin-2-ylamine
This material was prepared in analogy to example 86 step B] from 2,2-dimethyl-N-[6-(3,3,3-trifluoro-propoxymethyl)-pyridin-2-yl]-propionamide (0.2 g) and 3M aqueous NaOH (1.31 mL) as a brown oil (0.159 g). MS (ESI): 221.2 (MH+).

reactant | 2,2-dimethyl-N-[6-(3,3,3-trifluoro-propoxymethyl)-pyridin-2-yl]-propionamide | 0.2 g | CC(C(=O)NC1=NC(=CC=C1)COCCC(F)(F)F)(C)C | C14H19F3N2O2
reactant | NaOH | 3M, 1.31 mL, 0.159 g | [OH-].[Na+]
product | 6-(3,3,3-Trifluoro-propoxymethyl)-pyridin-2-ylamine | FC(CCOCC1=CC=CC(=N1)N)(F)F | C9H11F3N2O
